US07465726B2
Benzothiazol-5-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride
To a suspension of tert-butyl 4-[4-(benzothiazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate (28.3 mg, 0.063 mmol) in MeOH (3 mL) was added 4 N HCl (aq) (3 mL). The mixture was stirred at 60° C. for 8 h. Solvents were removed under reduced pressure to afford the title compound as yellow solid, which was used directly in the next step without purification. 1H-NMR (DMSO-d6, 400 MHz): δ=2.70 (m, 2H), 3.83 (m, 2H), 6.45 (s, 1H), 6.99 (s, 1H), 7.82 (d, J=8.4 Hz, 1H), 8.19 (d, J=8.8 Hz, 1H), 8.36 (s, 1H), 8.68 (s, 1H), 9.07 (s, 1H), 9.44 (s, 1H), 10.32 (s, br, 1H), 12.51 (s, 1H). MS (ES+): m/z 349.06 [MH+]. HPLC: tR=1.73 min (ZQ2000, polar—5 min).

reactant | tert-butyl 4-[4-(benzothiazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | 0.063 mmol, 28.3 mg | S1C=NC2=C1C=CC(=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C23H24N6O2S
reactant | HCl | 4 N, 3 mL | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | Benzothiazol-5-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride | Cl.Cl.Cl.S1C=NC2=C1C=CC(=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCNCC1 | InChI=1S/C18H16N6S.3ClH/c1-2-16-15(22-10-25-16)7-12(1)23-17-13-8-14(11-3-5-19-6-4-11)24-18(13)21-9-20-17;;;/h1-3,7-10,19H,4-6H2,(H2,20,21,23,24);3*1H
